### PR TITLE
[Merged by Bors] - feat(Geometry/Euclidean): volume of a simplex

### PR DESCRIPTION
**Pull request by wwylele**
This defines the volume of a simplex in Euclidean geometry, and shows that it agrees with measure theory. It also adds the basic set of lemmas (base-and-height formula, reindex, positivity, map, and restrict). Further properties of the volume will be in future PRs.

Three new file s are introduced and organized in the following dependency chain:
Def.lean -> MeasureSimplex.Lean -> Basic.lean

The Def.lean file has the definition only. MeasureSimplex.lean pulls in measure theory. Basic.lean publicly imports Def.lean, and privately imports MeasureSimplex.lean. When a downstream file imports Basic.lean, the measure theory part is not exposed and all properties of the volume is provided.

---

- [x] depends on: #36018
- [x] depends on: #43054

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/Volume/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,96 @@
...
+
+@[simp]
+theorem volume_map {n : ℕ} (s : Simplex ℝ P n) (f : P →ᵃⁱ[ℝ] P₂) :
+    (s.map f.toAffineMap f.injective).volume = s.volume := by
+  induction n with
+  | zero => simp
+  | succ n ih =>
+    conv_lhs => rw [volume_eq _ 0]
+    conv_rhs => rw [volume_eq _ 0]
+    simp [height_map, faceOpposite_map, ih]
```
Comment (YanYablonovskiy) [inline Mathlib/Geometry/Euclidean/Volume/Basic.lean]:
```suggestion
  | succ n ih => simp [volume_eq _ 0, height_map, faceOpposite_map, ih]
```

File: Mathlib/Geometry/Euclidean/Volume/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,96 @@
...
+    (hS : affineSpan ℝ (Set.range s.points) ≤ S) :
+    haveI := Nonempty.map (AffineSubspace.inclusion hS) inferInstance
+    (s.restrict S hS).volume = s.volume := by
+  induction n with
+  | zero => simp
+  | succ n ih =>
+    have := Nonempty.map (AffineSubspace.inclusion hS) inferInstance
+    conv_lhs => rw [volume_eq _ 0]
+    conv_rhs => rw [volume_eq _ 0]
+    simp [height_restrict, faceOpposite_restrict, ih]
```
Comment (YanYablonovskiy) [inline Mathlib/Geometry/Euclidean/Volume/Basic.lean]:
```suggestion
  | succ n ih => simp [volume_eq _ 0, height_restrict, faceOpposite_restrict, ih]
```

File: Mathlib/Geometry/Euclidean/Volume/Def.lean
Comment (felixpernegger) [inline Mathlib/Geometry/Euclidean/Volume/Def.lean:1]: Is this strict separation of files done anywhere else? Even the very basics are missing here, like `theorem volume_eq_one (s : Simplex ℝ P 0) : s.volume = 1 := rfl`

Would any file ever using this definitions not need the basic lemmas? If not, I dont really see a reason to split this up

Comment (wwylele) [reply Mathlib/Geometry/Euclidean/Volume/Def.lean:1]: The main point of separation is not about anticipating the use case where one only needs the Def (though that's possible). Indeed, in most case one will need to import Basic for volume to be useful. The advantage here is hiding the implementation detail of measure theory when one doesn't need it. In other words:
 - If you only want to do Euclidean geometry, import Basic. You will get volume and all its lemma in geometry, but not measure theory
 - If you want to work with measure theory, import MeasureSimplex.
 
The Def file exists because the definition is a prerequisite of MeasureSimplex. The separation exists because I want to provide the option to hide the middle layer "MeasureSimplex".

I don't find existing examples of this pattern, but this is only possible after the introduction of the module system, which is relatively new to most of Mathlib.

Comment (felixpernegger) [reply Mathlib/Geometry/Euclidean/Volume/Def.lean:1]: Thanks this makes sense. Certainly its worth trying.

File: Mathlib/Geometry/Euclidean/Volume/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,89 @@
...
+module
+
+public import Mathlib.Geometry.Euclidean.Volume.Def
+
+import Mathlib.Geometry.Euclidean.Volume.MeasureSimplex
+
+/-!
+# Volume of a simplex
+
+This file provides lemma related to the volume of a simplex.
```
Comment (CoolRmal) [inline Mathlib/Geometry/Euclidean/Volume/Basic.lean]:
```suggestion
This file provides lemmas related to the volume of a simplex.
```

File: MathlibTest/positivity.lean [hunk 4]
```diff
@@ -667,3 +668,11 @@ example {α : Type*} [Semiring α] [Nontrivial α] (a : α) : a ^ 0 ≠ 0 := by
 
 example {α : Type*} [AddGroup α] {a b : α} (ha : a ≠ b) : 0 ≠ b - a := by positivity
 example {α : Type*} [AddGroup α] {a b : α} (ha : a ≠ b) : 0 ≠ a - b := by positivity
+
+/- ## Geometry -/
+
+variable {V P : Type*}
+variable [NormedAddCommGroup V] [InnerProductSpace ℝ V] [MetricSpace P] [NormedAddTorsor V P]
+
+example {n : ℕ} [NeZero n] (s : Affine.Simplex ℝ P n) : 0 < s.height 0 := by positivity
```
Comment (CoolRmal) [inline MathlibTest/positivity.lean]:
```suggestion
example {n : ℕ} [NeZero n] (s : Affine.Simplex ℝ P n) (i : Fin (n + 1)) : 0 < s.height i := by
  positivity
```
As you include a test for the height of a simplex here, I think it makes sense to delete the test in  Mathlib.Geometry.Euclidean.Altitude.lean.

File: Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean [hunk 5]
```diff
@@ -0,0 +1,173 @@
...
+/-- The $n$-volume of the closed interior of a $n$-simplex is equal to $h * b / n$, where $h$ is the
+height and $b$ is the $(n - 1)$-volume of the base. This version is expressed in `ENNReal`. -/
+theorem euclideanHausdorffMeasure_closedInterior (s : Simplex ℝ P (n + 1)) (i : Fin (n + 2)) :
+    μHE[n + 1] s.closedInterior =
+      (.ofReal ↑(n + 1))⁻¹ * .ofReal (s.height i) * μHE[n] (s.faceOpposite i).closedInterior := by
+  have hn : finrank ℝ (affineSpan ℝ (Set.range s.points)).direction = n + 1 := by
+    rw [direction_affineSpan]
+    exact s.independent.finrank_vectorSpan (by simp)
+  convert ← (s.restrict _ le_rfl).euclideanHausdorffMeasure_closedInterior_aux hn i using 0
+  congrm ?_ = _ * ENNReal.ofReal ?_ * ?_
```
Comment (CoolRmal) [inline Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean]: I think this idea can be generalized so that we can have an analogue formula of [AffineSubspace.euclideanHausdorffMeasure_eq_lintegral](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Geometry/Euclidean/Volume/Measure.html#AffineSubspace.euclideanHausdorffMeasure_eq_lintegral) that works for a general `n` (by considering the affine space of the underlying set) instead of `finrank` of the ambient space.

**Review by CoolRmal — COMMENTED** [review]
You use ENNReal and lintegral in this PR and convert it to Real through Measure.real, and I think this suggests that we are missing some APIs. More specifically, I think we need a real version of [AffineSubspace.euclideanHausdorffMeasure_eq_lintegral](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Geometry/Euclidean/Volume/Measure.html#AffineSubspace.euclideanHausdorffMeasure_eq_lintegral) that uses the bochner integral, something like

```
μHE[finrank ℝ V].real t = ∫ x : s, μHE[finrank ℝ s.directionᗮ].real (t ∩ AffineSubspace.mk' x.val s.directionᗮ) ∂μHE[finrank ℝ s.direction]
```

However, you need some additional assumptions and it depends on the direction (consider the picture below, the lefthand side is zero, the right hand side is 1 if you use the vertical direction and is 0 if you use the horizontal direction).

Image

I think the integral formula above should be true if `μHE[finrank ℝ s.directionᗮ]` is almost everywhere finite along the direction of `s`. A more convenient assumption would be bounded in one direction. So ideally if we have 
- a definition of bounded in one direction
- a lemma saying that bounded implies bounded in every direction
- a lemma saying that closedInterior is bounded
- a lemma saying that the integral formula above is true under the boundedness assumption
Then we can prove `euclideanHausdorffMeasure_real_closedInterior` without using ENNReal and lintegral, and a similar idea can be applied if we also want to calculate the volume of a polytopes/cone/pyramid/ellipsoid/volume of rotation of the graph of a function like y=1/x^2...

But what I proposed is clearly far more complicated. Let me know what you think.

**Comment by CoolRmal** [comment]
awaiting-author

File: MathlibTest/positivity.lean (hunk 4 above)
Comment (wwylele) [reply MathlibTest/positivity.lean]: Oh, for some reason I didn't see the test in the original file. I think I'll keep that one and remove this one to reduce churn

Comment (CoolRmal) [reply MathlibTest/positivity.lean]: But I think it will be more systematic to put all tests at the same place, and also I think a test in MathlibTest/positivity.lean is actually stronger than an example immediately next to the extension. The first one says that this positivity registration works after being exported from the module, and be reconstructed when another module imports it, where the latter says that it works inside the same module where it was registered.

File: Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean (hunk 5 above)
Comment (wwylele) [reply Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean]: I can try it, but a warning first: this is going to add another 100 lines for a generalization that might be weaker and more cumbersome than you think. This can only apply to "flat" sets (a sphere is a counterexample), and in the expression `t ∩ AffineSubspace.mk' (x • v +ᵥ p) (ℝ ∙ v)ᗮ`, the right side now follows the ambient space with a larger dimension, so both the proof site and the user site need to argue that the intersection is contained in the affine space of the set.

Comment (CoolRmal) [reply Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean]: I’ll think about it more. But just to be clear, my comments here are really only suggestions, so please take them with a grain of salt.

**Comment by wwylele** [comment]
@CoolRmal Thanks for the suggestions! 

I implemented the second version `euclideanHausdorffMeasure_eq_lintegral` that works for general ambient space. The code unfortunately grew in size, and there is quite some code that juggles the expression around and is hard to read. If you find the old version better, I can revert it back

As for the Bochner integral version, I'll need to do more experiment. I doubt that it will simplify the simplex case, as the boundedness condition doesn't look trivial to reason about. I don't think it should block this PR, so I am opening this for review again. Meanwhile, I am exploring that path in parallel, and might PR some lemma along the way.

-awaiting-author

File: Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean [hunk 6]
```diff
@@ -0,0 +1,180 @@
...
+namespace Affine.Simplex
+variable {V P : Type*}
+variable [NormedAddCommGroup V] [InnerProductSpace ℝ V]
+variable [MetricSpace P] [MeasurableSpace P] [BorelSpace P] [NormedAddTorsor V P]
+variable {n : ℕ}
+
+theorem measurableSet_closedInterior (s : Simplex ℝ P n) : MeasurableSet s.closedInterior :=
+  s.isClosed_closedInterior.measurableSet
+
+omit [MeasurableSpace P] [BorelSpace P] in
```
Comment (CoolRmal) [inline Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean]: May you reorganize this file so that you don't need to `omit [MeasurableSpace P] [BorelSpace P] in`?
I would move `measurableSet_closedInterior` just before `euclideanHausdorffMeasure_closedInterior`.

File: Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean [hunk 7]
```diff
@@ -0,0 +1,180 @@
...
+/-- Auxiliary lemma that converts the shifted plane from integral formula style
+to `AffineSubspace.shift`. -/
+private theorem convert_shifted_plane (s : Simplex ℝ P (n + 1)) (i : Fin (n + 2)) (x : ℝ) :
+    -- LHS: through a point on the altitude, draw the perpendicular plane, restricted to the
+    -- affine span of the simplex.
+    AffineSubspace.mk' (x • (s.altitudeFoot i -ᵥ s.points i) +ᵥ s.points i)
+      (ℝ ∙ (s.altitudeFoot i -ᵥ s.points i))ᗮ ⊓ affineSpan ℝ (Set.range s.points) =
+      -- RHS: shift the base towards the vertex.
+      (affineSpan ℝ (s.points '' {i}ᶜ)).shift (s.points i) x := by
```
Comment (CoolRmal) [inline Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean]:
```suggestion
        -- RHS: shift the base towards the vertex.
        (affineSpan ℝ (s.points '' {i}ᶜ)).shift (s.points i) x := by
```
Indent.

File: Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean [hunk 8]
```diff
@@ -0,0 +1,180 @@
...
+theorem measurableSet_closedInterior (s : Simplex ℝ P n) : MeasurableSet s.closedInterior :=
+  s.isClosed_closedInterior.measurableSet
+
+omit [MeasurableSpace P] [BorelSpace P] in
+/-- Auxiliary lemma that converts the shifted plane from integral formula style
+to `AffineSubspace.shift`. -/
+private theorem convert_shifted_plane (s : Simplex ℝ P (n + 1)) (i : Fin (n + 2)) (x : ℝ) :
+    -- LHS: through a point on the altitude, draw the perpendicular plane, restricted to the
+    -- affine span of the simplex.
+    AffineSubspace.mk' (x • (s.altitudeFoot i -ᵥ s.points i) +ᵥ s.points i)
```
Comment (CoolRmal) [inline Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean]: Maybe you can use the APIs for [AffineMap.lineMap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/AffineSpace/AffineMap.html#AffineMap.lineMap)?

File: Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean [hunk 9]
```diff
@@ -0,0 +1,180 @@
...
+  · rw [direction_inf_of_mem (by simp) h]
+    suffices (ℝ ∙ (s.altitudeFoot i -ᵥ s.points i))ᗮ ⊓
+      (affineSpan ℝ (Set.range s.points)).direction = (affineSpan ℝ (s.points '' {i}ᶜ)).direction by
+      simpa
+    rw [← vectorSpan_pair, ← direction_affineSpan, affineSpan_pair_altitudeFoot_eq_altitude,
+      direction_altitude, direction_affineSpan]
+    rw [← (vectorSpan ℝ (Set.range s.points)).orthogonal_orthogonal, inf_orthogonal]
+    rw [inf_sup_assoc_of_le _ (orthogonal_le (vectorSpan_mono ℝ (by simp)))]
+    rw [((vectorSpan ℝ (Set.range s.points))ᗮ).isCompl_orthogonal.codisjoint.symm.eq_top]
+    rw [inf_top_eq, orthogonal_orthogonal, direction_affineSpan]
```
Comment (CoolRmal) [inline Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean]: I have troubles understanding this proof, and I think it is partly because you use `AffineSubspace.shift_eq` to expand the expressions (in order to compute the direction) and make them very complicated, and we are missing some APIs for `AffineSubspace.shift`.

The idea of the proof should be pretty simple, we use `ext_of_direction_eq` and there are four things that we need to do:
1. compute the direction of LHS: I think you can shorten the proof a lot by proving the following lemma first:
```
theorem Submodule.orthogonal_inf_orthogonal_inf_of_le {W B : Submodule ℝ V} (h : B ≤ W)
    [W.HasOrthogonalProjection] [B.HasOrthogonalProjection] :
    (Bᗮ ⊓ W)ᗮ ⊓ W = B := by
  sorry
```
I believe this is useful because it basically says that taking the orthogonal complement relative to `W` is an involution.
2. compute the direction of RHS: this can be proved very easily by using [AffineSubspace.direction_shift](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Shift.html#AffineSubspace.direction_shift), which suggests that you shouldn't use `AffineSubspace.shift_eq` to do the expansion.
3. show that the point `x • (s.altitudeFoot i -ᵥ s.points i) +ᵥ s.points i` (or `lineMap (s.altitudeFoot i) (s.points i) x`) is in LHS, but this should just be an easy consequence of [AffineSubspace.self_mem_mk'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.html#AffineSubspace.self_mem_mk').
4. show that `lineMap (s.altitudeFoot i) (s.points i) x` is in RHS. We are missing basic lemmas that I think you should add:
```
variable {k V P : Type*} [Ring k] [AddCommGroup V] [Module k V] [AddTorsor V P]

theorem vadd_mem_shift {s : AffineSubspace k P} {p : P} (hp : p ∈ s) (c : P) (r : k) :
    (1 - r) • (c -ᵥ p) +ᵥ p ∈ s.shift c r := by
  sorry

theorem lineMap_mem_shift {s : AffineSubspace k P} {p : P} (hp : p ∈ s) (c : P) (r : k) :
    AffineMap.lineMap c p r ∈ s.shift c r := by
  sorry
```
You can then solve the last subgoal pretty easily.
```
  · refine ⟨lineMap (s.points i) (s.altitudeFoot i) x, ⟨self_mem_mk' _ _, h⟩, ?_⟩
    exact lineMap_mem_shift (altitudeFoot_mem_affineSpan_image_compl s i) (s.points i) x
```

**Review by CoolRmal — COMMENTED** [review]
I'll have more comments later.

An additional remark:
I am very happy with anything in this PR that is not related to measure theory, so maybe it is a good idea to split up this PR (as it has > 300 diffs which is also relatively large) to speed up the process of reviewing and merging. If you do that at least on my side I'll tag maintainer merge to the sub-PR for the Euclidean geometry part.

**Comment by wwylele** [comment]
Thanks for the suggestion! I have extracted the affine geometry part in #43054

**Comment by CoolRmal** [comment]
What I mean is that you have one PR that contains the definition `Affine.Simplex.volume` and everything in the file Mathlib/Geometry/Euclidean/Volume/Basic.lean (the Euclidean geometry part), and another PR that contains everything in Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean (the measure theory part).

**Comment by wwylele** [comment]
> What I mean is that you have one PR that contains the definition Affine.Simplex.volume and everything in the file Mathlib/Geometry/Euclidean/Volume/Basic.lean 

That unfortunately can't happen with the current proof strategy. The first nontrivial "Basic" lemma `volume_eq` uses the conclusion from measure theory `volume_eq_euclideanHausdorffMeasure_real_closedInterior`

In any case, #43054 is a measure-theory-free chunk of the code, so could you help with the review there?

**Comment by CoolRmal** [comment]
Ok I see your point this is indeed a bit annoying... I promise I'll give more comments on both #37910 and #43054 before next week.

File: Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean [hunk 10]
```diff
@@ -0,0 +1,135 @@
...
+variable {n : ℕ}
+
+theorem measurableSet_closedInterior (s : Simplex ℝ P n) : MeasurableSet s.closedInterior :=
+  s.isClosed_closedInterior.measurableSet
+
+/-- The volume of the cross-section is scaled from the base because of homothety -/
+private theorem measure_cross_section (s : Simplex ℝ P (n + 1)) (i : Fin (n + 2)) :
+    (μHE[n] <| s.closedInterior ∩ (affineSpan ℝ (s.points '' {i}ᶜ)).shift (s.points i) ·)
+      =ᵐ[MeasureSpace.volume.restrict (Set.Icc 0 1)]
+      (‖·‖₊ ^ n • μHE[n] (s.faceOpposite i).closedInterior) := by
```
Comment (CoolRmal) [inline Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean]:
```suggestion
        (‖·‖₊ ^ n • μHE[n] (s.faceOpposite i).closedInterior) := by
```

File: Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean [hunk 11]
```diff
@@ -0,0 +1,135 @@
...
+    Function.support (μHE[n] <| s.closedInterior ∩
+      (affineSpan ℝ (s.points '' {i}ᶜ)).shift (s.points i) ·) ⊆ Set.Icc 0 1 := by
+  refine Function.support_subset_iff'.mpr fun x hx ↦ ?_
+  rw [(s.disjoint_closedInterior_shift i (by grind)).inter_eq, measure_empty]
+
+/-- The $n$-volume of the closed interior of a $n$-simplex is equal to $h * b / n$, where $h$ is the
+height and $b$ is the $(n - 1)$-volume of the base. This version is expressed in `ENNReal`. -/
+theorem euclideanHausdorffMeasure_closedInterior (s : Simplex ℝ P (n + 1)) (i : Fin (n + 2)) :
+    μHE[n + 1] s.closedInterior =
+      (.ofReal ↑(n + 1))⁻¹ * .ofReal (s.height i) * μHE[n] (s.faceOpposite i).closedInterior := by
```
Comment (CoolRmal) [inline Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean]:
```suggestion
      ((n + 1 : ℕ) : ℝ≥0∞)⁻¹ * .ofReal (s.height i) * μHE[n] (s.faceOpposite i).closedInterior := by
```
I think we should prefer this as we have [ENNReal.ofReal_natCast](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/ENNReal/Basic.html#ENNReal.ofReal_natCast), similarly for the theorem below.

File: Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean [hunk 12]
```diff
@@ -0,0 +1,135 @@
...
+  _ = ∫ (x : ℝ) in Set.Icc 0 1, x ^ n := by
+    rw [integral_eq_lintegral_of_nonneg_ae
+      (ae_restrict_of_forall_mem measurableSet_Icc fun x hx ↦ by simp [hx.1]) (by fun_prop),
+      setLIntegral_congr_fun (by simp) fun x hx ↦ ?_]
+    rw [← nnnorm_pow, ← enorm_eq_nnnorm, Real.enorm_eq_ofReal (by simp [hx.1])]
+  _ = ∫ x in 0..1, x ^ n := by
+    rw [intervalIntegral.integral_of_le (by simp), integral_Icc_eq_integral_Ioc]
+  _ = _ := by
+    rw [ENNReal.toReal_inv, ENNReal.toReal_ofReal (by positivity)]
+    simp
```
Comment (CoolRmal) [inline Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean]:
```suggestion
  -- Cancel common factors, reducing to `∫ x in 0..1, x ^ n = (n + 1)⁻¹`
  simp_rw [nnreal_smul_coe_apply]
  rw [lintegral_mul_const _ (by fun_prop), ← mul_assoc, mul_comm (ENNReal.ofReal (s.height i))]
  congr
  calc _ = ENNReal.ofReal (∫ x in Set.Icc (0 : ℝ) 1, ((‖x‖₊ ^ n : ℝ≥0) : ℝ)) :=
      lintegral_coe_eq_integral _ (Continuous.integrableOn_Icc (by fun_prop))
    _ = ENNReal.ofReal (∫ x in Set.Icc 0 1, x ^ n) :=
      congrArg _ (setIntegral_congr_fun measurableSet_Icc fun x hx ↦ by simp [abs_of_nonneg hx.1])
    _ = ((n + 1 : ℕ) : ℝ≥0∞)⁻¹ := by
      rw [integral_Icc_eq_integral_Ioc, ← intervalIntegral.integral_of_le zero_le_one, integral_pow,
        ← ENNReal.ofReal_natCast (n + 1), ← ENNReal.ofReal_inv_of_pos (by positivity)]
      norm_num
```
golf

**Review by bjbraams — APPROVED** [review]
This PR #37910 is a valuable contribution to Mathlib and I strongly support its adoption. Pending adoption I am already relying on one of the key theorems of the PR: the `euclideanHausdorffMeasure_eq_lintegral`. (This is in a project that involves measures on the standard simplex; see the code https://github.com/bjbraams/lean-codes/blob/main/StdSimplexMeasure/EuclideanCrossSection.lean.) I could use the code from #37910 without any change.

File: Mathlib/Geometry/Euclidean/Volume/Measure.lean [hunk 13]
```diff
@@ -344,3 +346,42 @@ theorem EuclideanGeometry.euclideanHausdorffMeasure_eq_lintegral (p : P) {v : V}
...
+omit [FiniteDimensional ℝ V] in
+/-- An alternative version of `EuclideanGeometry.euclideanHausdorffMeasure_eq_lintegral` that allows
+the ambient space to have a dimension larger than the measure dimension. It still requires the set
+to be contained in a subspace of the measure dimension. -/
+theorem EuclideanGeometry.euclideanHausdorffMeasure_eq_lintegral_of_subset (p : P) {v : V}
+    (hv : v ≠ 0) {t : Set P} (ht : MeasurableSet t) {s : AffineSubspace ℝ P} (hvs : v ∈ s.direction)
+    (hts : t ⊆ s) [FiniteDimensional ℝ s.direction] :
+    μHE[finrank ℝ s.direction] t = ‖v‖ₑ * ∫⁻ (x : ℝ),
+      μHE[finrank ℝ s.direction - 1] (t ∩ AffineSubspace.mk' (x • v +ᵥ p) (ℝ ∙ v)ᗮ) := by
+  open AffineSubspace in
```
Comment (CoolRmal) [inline Mathlib/Geometry/Euclidean/Volume/Measure.lean]: Maybe it is better to open Affine subspace at the top of the file? or at the top of this theorem above `omit`

File: Mathlib/Geometry/Euclidean/Volume/Measure.lean [hunk 14]
```diff
@@ -344,3 +346,42 @@ theorem EuclideanGeometry.euclideanHausdorffMeasure_eq_lintegral (p : P) {v : V}
...
+  by_cases! hs : s = ⊥
+  · simp_all
+  have : Nonempty s := (s.nonempty_iff_ne_bot.mpr hs).to_subtype
```
Comment (CoolRmal) [inline Mathlib/Geometry/Euclidean/Volume/Measure.lean]:
```suggestion
  have : Nonempty s := (s.nonempty_iff_ne_bot.mpr fun h ↦ hv (by simpa [h] using hvs)).to_subtype
```

File: Mathlib/Geometry/Euclidean/Volume/Measure.lean [hunk 15]
```diff
@@ -344,3 +346,42 @@ theorem EuclideanGeometry.euclideanHausdorffMeasure_eq_lintegral (p : P) {v : V}
...
+  let v' : s.direction := ⟨v, hvs⟩
+  convert euclideanHausdorffMeasure_eq_lintegral (orthogonalProjection s p)
+    (show v' ≠ 0 by simpa [v'] using hv) (ht.preimage s.subtypeA.continuous.measurable) with x
```
Comment (CoolRmal) [inline Mathlib/Geometry/Euclidean/Volume/Measure.lean]:
```suggestion
    (show v' ≠ 0 by simpa [v'] using hv) (ht.preimage measurable_subtype_coe) with x
```
This allows you to remove `coe_subtypeA` in the codes below.

**Review by CoolRmal — COMMENTED** [review]
I think it makes sense to add the following lemmas to finish`EuclideanGeometry.euclideanHausdorffMeasure_eq_lintegral_of_subset`.

```
/-- Two affine subspaces constructed from points and the same direction are equal if and only if
the difference of the points lies in that direction. -/
theorem mk'_eq_mk'_iff {p q : P} {s : Submodule k V} :
    mk' p s = mk' q s ↔ p -ᵥ q ∈ s := sorry

lemma comap_mk' (f : P₁ →ᵃ[k] P₂) (p : P₁) (s : Submodule k V₂) :
    (mk' (f p) s).comap f = mk' p (s.comap f.linear) := by
  aesop

/-- The preimage of `mk' p K` under the inclusion of an affine subspace `s`, for a submodule `K`
containing `s.directionᗮ`, is `mk'` of the orthogonal projection of `p` and the preimage of `K`. -/
theorem comap_subtype_mk' (s : AffineSubspace 𝕜 P) [Nonempty s]
    [s.direction.HasOrthogonalProjection] (p : P) {K : Submodule 𝕜 V} (hK : s.directionᗮ ≤ K) :
    comap s.subtype (mk' p K) = mk' (orthogonalProjection s p) (K.comap s.direction.subtype) := sorry

/-- The orthogonal projection of `w +ᵥ p`, for `w` in the direction of the subspace, is `w +ᵥ` the
orthogonal projection of `p`. -/
theorem orthogonalProjection_vadd (s : AffineSubspace 𝕜 P) [Nonempty s]
    [s.direction.HasOrthogonalProjection] (w : s.direction) (p : P) :
    orthogonalProjection s ((w : V) +ᵥ p) = w +ᵥ orthogonalProjection s p := sorry
```

I think they can then be used to give a better proof of `euclideanHausdorffMeasure_eq_lintegral_of_subset`. The theorem is proved by pulling `t ⊆ s` back to `s` along the inclusion and applying the ambient-space formula `euclideanHausdorffMeasure_eq_lintegral` inside `s`, with base point `orthogonalProjection s p` and direction vector `⟨v, hvs⟩`. The integrand this produces is the measure of `t ∩ H'` where `H'` is a hyperplane in `s`, while the target integrand uses the hyperplane `H = mk' (x • v +ᵥ p) (ℝ ∙ v)ᗮ` of the ambient space. So the whole proof reduces to one geometric identity: `H' = comap s.subtype H`, i.e. `H` meets `s` exactly in `H'`.

`comap_subtype_mk'` applies with `K = (ℝ ∙ v)ᗮ`, whose hypothesis `s.directionᗮ ≤ (ℝ ∙ v)ᗮ` follows from `v ∈ s.direction` by `Submodule.orthogonal_le`. This turns `comap s.subtype H` into an `mk'` in `s`.
```
theorem EuclideanGeometry.euclideanHausdorffMeasure_eq_lintegral_of_subset (p : P) {v : V}
    (hv : v ≠ 0) {t : Set P} (ht : MeasurableSet t) {s : AffineSubspace ℝ P} (hvs : v ∈ s.direction)
    (hts : t ⊆ s) [FiniteDimensional ℝ s.direction] :
    μHE[finrank ℝ s.direction] t = ‖v‖ₑ * ∫⁻ (x : ℝ),
      μHE[finrank ℝ s.direction - 1] (t ∩ mk' (x • v +ᵥ p) (ℝ ∙ v)ᗮ) := by
  have : Nonempty s := (s.nonempty_iff_ne_bot.mpr fun h ↦ hv (by simpa [h] using hvs)).to_subtype
  let v' : s.direction := ⟨v, hvs⟩
  rw [← s.euclideanHausdorffMeasure_preimage_coe_of_subset _ hts,
    euclideanHausdorffMeasure_eq_lintegral (orthogonalProjection s p)
      (show v' ≠ 0 by simpa [v'] using hv) (ht.preimage measurable_subtype_coe)]
  congr 1
  refine lintegral_congr fun x ↦ ?_
  suffices mk' (x • v' +ᵥ orthogonalProjection s p) (ℝ ∙ v')ᗮ
    = comap s.subtype (mk' (x • v +ᵥ p) (ℝ ∙ v)ᗮ) from by
    simp [this, ← Set.preimage_inter,
      s.euclideanHausdorffMeasure_preimage_coe_of_subset _ (Set.inter_subset_left.trans hts)]
  rw [comap_subtype_mk' s _
    (Submodule.orthogonal_le ((Submodule.span_singleton_le_iff_mem _ _).mpr hvs))]
  congr 1
  · exact (orthogonalProjection_vadd s (x • v') p).symm
  · ext w
    simp [Submodule.mem_orthogonal_singleton_iff_inner_right, v']
```

**Comment by wwylele** [comment]
Thanks for the suggestions! I have applied them

File: Mathlib/Geometry/Euclidean/Volume/Measure.lean [hunk 16]
```diff
@@ -217,11 +219,25 @@ open EuclideanGeometry
...
 
+theorem euclideanHausdorffMeasure_preimage_coe_of_subset (d : ℕ) {s : AffineSubspace ℝ P}
+    {t : Set P} (ht : t ⊆ s) :
+    μHE[d] ((Subtype.val : s → P) ⁻¹' t) = μHE[d] t := by
+  by_cases! hs : s = ⊥
+  · simp_all
+  have : Nonempty s := (s.nonempty_iff_ne_bot.mpr hs).to_subtype
+  rw [← s.coe_subtype, ← s.coe_subtypeₐᵢ, s.subtypeₐᵢ.isometry.euclideanHausdorffMeasure_preimage,
+    Set.inter_eq_left.mpr]
+  simpa using ht
```
Comment (CoolRmal) [inline Mathlib/Geometry/Euclidean/Volume/Measure.lean]:
```suggestion
theorem euclideanHausdorffMeasure_preimage_coe (d : ℕ) {s : AffineSubspace ℝ P} {t : Set P} :
    μHE[d] ((Subtype.val : s → P) ⁻¹' t) = μHE[d] (t ∩ s) := by
  rw [isometry_subtype_coe.euclideanHausdorffMeasure_preimage, Subtype.range_coe]

theorem euclideanHausdorffMeasure_preimage_coe_of_subset (d : ℕ) {s : AffineSubspace ℝ P}
    {t : Set P} (ht : t ⊆ s) :
    μHE[d] ((Subtype.val : s → P) ⁻¹' t) = μHE[d] t := by
  rw [euclideanHausdorffMeasure_preimage_coe, Set.inter_eq_left.mpr ht]
```

**Comment by CoolRmal** [comment]
maintainer merge

File: Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean [hunk 17]
```diff
@@ -0,0 +1,127 @@
...
+variable {V P : Type*}
+variable [NormedAddCommGroup V] [InnerProductSpace ℝ V]
+variable [MetricSpace P] [NormedAddTorsor V P] [MeasurableSpace P] [BorelSpace P]
+variable {n : ℕ}
+
+theorem measurableSet_closedInterior (s : Simplex ℝ P n) : MeasurableSet s.closedInterior :=
+  s.isClosed_closedInterior.measurableSet
+
+/-- The volume of the cross-section is scaled from the base because of homothety -/
+private theorem measure_cross_section (s : Simplex ℝ P (n + 1)) (i : Fin (n + 2)) :
```
Comment (jcommelin) [inline Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean]: Do these cross sections show up elsewhere? Should there be a dedicated definition, and should the result be public instead of private?

Comment (wwylele) [reply Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean]: I can turn this theorem public (originally a lot of things in this PR were private and this one is more like a left over). As for a new definition, I think a proper definition, if we want one, should promote this cross section object to an `Affine.Simplex`. I am not very motivated to write another set of API at the moment... how about I leave a TODO note here in the code comment?

Comment (wwylele) [reply Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean]: I have updated the doc & theorem visibility. Let me know what you think. If there is a push for a new definition, I can do it in the following days

-awaiting-author

**Comment by wwylele** [comment]
-awaiting-author

File: Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean (hunk 17 above)
Comment (wwylele) [reply Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean]: Oh, and if the new definition is needed, maybe we can slice off other parts from the PR and merge those first? The following files are unaffecrted
 - Mathlib/Geometry/Euclidean/Projection.lean
 - Mathlib/Geometry/Euclidean/Volume/Measure.lean
 - Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Basic.lean
 - Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean

Not sure if the slice bot support multiple files. If not, I can manually make one

**Comment by YanYablonovskiy** [comment]
I find it very strange the level of difficulty this PR has in getting merged. Is everything okay ?? Like it's a bit bizarre to me this is happening , as valuable as my exiled opinion is to you all..lovely people.

File: Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean (hunk 17 above)
Comment (jcommelin) [reply Mathlib/Geometry/Euclidean/Volume/MeasureSimplex.lean]: @wwylele Thanks for the updates! This looks good to me now. If cross sections are added later, then we can refactor.

Thanks again :tada:

bors merge
